US06989401B2
(1) 5-bromopentylsulfonic acid sodium salt
To a solution of 1,5-dibromopentane (23.2 g, 101 mmol), ethanol (40 mL) and water (40 mL) was dropwise added a solution of sodium sulfite (4.24 g, 33.6 mmol) in water (15 mL) under heating under reflux over 2 hr. After heating under reflux for 2 hr, the solvent was distilled away under reduced pressure and n-hexane/ethanol was added. The precipitated crystals were washed with n-hexane and dried in vacuo to give the title compound (3.81 g, 45%).

reactant | 1,5-dibromopentane | 101 mmol, 23.2 g | BrCCCCCBr | C5H10Br2
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | sodium sulfite | 33.6 mmol, 4.24 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 5-bromopentylsulfonic acid sodium salt | 3.81 g, 45% | [Na+].BrCCCCCS(=O)(=O)[O-] | InChI=1S/C5H11BrO3S.Na/c6-4-2-1-3-5-10(7,8)9;/h1-5H2,(H,7,8,9);/q;+1/p-1
